US06177423B1
5-Bromo-2-hydroxy-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
To a solution of 2-benzyloxy-5-bromo-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.23 g, 0.51 mmol, from Example W1) in TFA (5 mL) at 0° C. was added a 1.0 M solution of boron tris(trifluoroacetate) in TFA (3 mL). The reaction was stirred at 0° C. for 2 hours and poured into a water/ethanol solution (1:1). The solution was neutralized with saturated Na2CO3, the resulting precipitate removed by filtration, and chromatographed using chloroform/hexane (10:1) to give 0.10 g of the title compound, mp 170-172° C.

reactant | 2-benzyloxy-5-bromo-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.51 mmol, 0.23 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CCCC3)Br)=O | C23H19BrN2O3
reactant | boron tris(trifluoroacetate) | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[B+3]
reactant | water ethanol | O.C(C)O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Bromo-2-hydroxy-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.10 g | BrC=1C(=C2C3=C(C(N(C(C3=CC=C2)=O)O)=O)C1)N1CCCC1 | C16H13BrN2O3
